US09034866B2
9-Bromo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxamide (30 mg) was reacted with 1-ethynylcyclopentanol similar to as described in Procedure E to afford 8.9 mg of 9-[2-(1-hydroxycyclopentyl)ethynyl]-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxamide following reverse phase hplc purification. MS (Q1) 348 (M)+. 1H NMR (400 MHz, DMSO) δ 8.61 (d, J=11.1 Hz, 1H), 7.82 (s, 1H), 7.52 (s, 1H), 7.26 (s, 2H), 7.09 (s, 1H), 5.33 (s, 1H), 4.92 (q, J=4.5 Hz, 1H), 3.75-3.66 (m, 1H), 3.12-3.03 (m, 2H), 1.96-1.88 (m, 4H), 1.81-1.62 (m, 7H).

reactant | 9-Bromo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxamide | 30 mg | BrC1=CC=2C3=NC(=CN3C3CC(C2C=C1)C3)C(=O)N | C14H12BrN3O
reactant | 1-ethynylcyclopentanol | C(#C)C1(CCCC1)O | C7H10O
product | 9-[2-(1-hydroxycyclopentyl)ethynyl]-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxamide | 8.9 mg | OC1(CCCC1)C#CC=1C=C2C3=NC(=CN3C3CC(C2=CC1)C3)C(=O)N | C21H21N3O2
